US06919356B2
Part L. Preparation of trans-1-{4-(benzyl-methylamino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl}-3-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea
A solution of trans-{3-aminomethyl-1-[2-(4-fluorophenyl)-ethyl]-piperidin-4-yl}-benzyl-methylamine (96 mg, 270 μmol), [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester (87 mg, 270 μmol) and triethylamine (75 μL, 540 μmol) in N,N-dimethylformamide (2 mL) was stirred at room temperature for 20 hours. The solvent was removed under vacuum and the residue was dissolved in dichloromethane. The solution was washed with 1.0 N aqueous sodium hydroxide, then with water, and dried over sodium sulfate and concentrated under vacuum. The residue was purified by flash chromatography, eluting with 4% methanol in dichloromethane containing 0.4% (112 mg, 71%). 1H NMR (300 MHz, CDCl3) δ7.68 (s, 1H), 7.39 (m, 6H), 7.20 (s, 1H), 7.15 (m, 2H), 6.97 (t, J=9 Hz, 2H), 4.14 (s, 3H), 3.80 (m, 1H), 3.7-3.4 (m, 2H), 3.3-3.1 (m, 3H), 2.82 (m, 2H), 2.7-2.5 (m, 5H), 2.29 (s, 3H), 2.1-1.6 (m, 7H), 1.20 (t, J=7 Hz, 3H). Mass spec (ES+) m/z 585.6 (M+H+).

reactant | trans-{3-aminomethyl-1-[2-(4-fluorophenyl)-ethyl]-piperidin-4-yl}-benzyl-methylamine | 270 μmol, 96 mg | NC[C@@H]1CN(CC[C@H]1N(C)CC1=CC=CC=C1)CCC1=CC=C(C=C1)F | C22H30FN3
reactant | [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester | 270 μmol, 87 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC(=C1)C1=NN=NN1C)CC)=O | C17H17N5O2
reactant | triethylamine | 540 μmol, 75 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | trans-1-{4-(benzyl-methylamino)-1-[2-(4-fluorophenyl)-ethyl]-piperidin-3-ylmethyl}-3-[3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)-phenyl]-urea | C(C1=CC=CC=C1)N([C@H]1[C@@H](CN(CC1)CCC1=CC=C(C=C1)F)CNC(=O)NC1=CC(=CC(=C1)C1=NN=NN1C)CC)C | C33H41FN8O
